US08304557B2
1,3-dimethyl-N-{3-methyl-5-[(6-{[(4-methylphenyl)sulfonyl]amino}pyridin-3-yl)oxy]phenyl}-1H-pyrazole-5-carboxamide
In the same manner as in Reference Example 4 and using N-{3-[(6-aminopyridin-3-yl)oxy]-5-methylphenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide (4.02 g, 9.79 mmol), p-toluenesulfonyl chloride (2.29 g, 12.0 mmol) and pyridine (30 mL) as starting materials, the title compound (3.88 g, 81%) was obtained as a colorless oil.

reactant | N-{3-[(6-aminopyridin-3-yl)oxy]-5-methylphenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide | 9.79 mmol, 4.02 g | NC1=CC=C(C=N1)OC=1C=C(C=C(C1)C)NC(=O)C1=CC(=NN1C)C | C18H19N5O2
reactant | p-toluenesulfonyl chloride | 12.0 mmol, 2.29 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 30 mL | N1=CC=CC=C1 | C5H5N
product | 1,3-dimethyl-N-{3-methyl-5-[(6-{[(4-methylphenyl)sulfonyl]amino}pyridin-3-yl)oxy]phenyl}-1H-pyrazole-5-carboxamide | 3.88 g, 81% | CN1N=C(C=C1C(=O)NC1=CC(=CC(=C1)OC=1C=NC(=CC1)NS(=O)(=O)C1=CC=C(C=C1)C)C)C | C25H25N5O4S
